US08431607B2
To a solution of 3-chloro-N,N-bis(4-methoxybenzyl)propane-1-sulfonamide (30.0 mg, 0.075 mmol) and (S)-1-(4-(4-chloro-phenoxy)-phenyl)-5-(3-(trifluoromethyl)-phenyl)-imidazolidin-2-one (20.0 mg, 0.046 mmol) in DMF (0.8 mL) is added Cs2CO3 (22 mg, 0.069 mmol) and KI (1 mg). The resulted mixture is stirred at 80° C. for 14 h and is cooled down to room temperature. The mixture is poured into water (5 mL) and extracted with EtOAc (3×3 mL). The combined organic layers are concentrated and purified by flash column chromatography to provide (S)-3-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N,N-bis(4-methoxybenzyl)propane-1-sulfonamide (30 mg, 82%). HPLC-MS calculated for C41H39ClF3N3O6S (M+H+) 794.2, found 794.2.

reactant | 3-chloro-N,N-bis(4-methoxybenzyl)propane-1-sulfonamide | 0.075 mmol, 30.0 mg | ClCCCS(=O)(=O)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C19H24ClNO4S
reactant | (S)-1-(4-(4-chloro-phenoxy)-phenyl)-5-(3-(trifluoromethyl)-phenyl)-imidazolidin-2-one | 0.046 mmol, 20.0 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(NC[C@@H]2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C22H16ClF3N2O2
reactant | Cs2CO3 | 0.069 mmol, 22 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 5 mL | O | H2O
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)-N,N-bis(4-methoxybenzyl)propane-1-sulfonamide | 30 mg, 82% | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)CCCS(=O)(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)=O)C=C1 | C41H39ClF3N3O6S
